data/mechanism_extracts/GreenChem/10.1039_d4gc00352g.json
{"doi": "10.1039_d4gc00352g", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Photoelectrocatalytic dehydrogenative carbocyclization of unactivated alkene-tethered quinazolin-4-ones with diethyl malonate to give polycyclic pyrroloquinazolinones, with H2 as the sole byproduct.", "mechanism_family": ["radical_anodic", "photoredox_combined", "paired_electrolysis"], "electrochemical_role": "Anodic PCET oxidation of base-activated diethyl malonate to the malonate radical; cathodic reduction of protons to H2; the Ir(ppy)3 oxidative quenching photocatalytic cycle anchors and oxidizes the cyclized carbon radical intermediate (IrIII* oxidizes C to nitranion D, regenerated IrII reduced back to IrIII at the anode/by anodic events).", "key_intermediates": [{"name": "malonate radical (deprotonated diethyl malonate, one-electron oxidized) - intermediate A", "smiles": "CCOC(=O)[CH]C(=O)OCC", "role": "reactive"}, {"name": "alkyl radical B from addition of malonate radical onto tethered alkene of 1a", "smiles": null, "role": "reactive"}, {"name": "N-centered (amidinyl) cyclized radical C after intramolecular radical trapping by amidine N", "smiles": null, "role": "reactive"}, {"name": "nitranion intermediate D (from SET oxidation of C by excited IrIII*)", "smiles": null, "role": "transient"}, {"name": "tetrahydropyrroloquinazolinone E (protonated D, detected by HRMS)", "smiles": null, "role": "transient"}, {"name": "pyrroloquinazolinone product 3a (after anodic oxidation of E)", "smiles": null, "role": "reactive"}, {"name": "Ir(ppy)3 photocatalyst (IrIII / IrIII* / IrII cycle)", "smiles": null, "role": "resting_state"}], "electron_flow": "Base-activated diethyl malonate undergoes anodic PCET to give a malonate radical, which adds to the tethered alkene of 1a to form alkyl radical B; intramolecular cyclization onto the amidine N gives radical C, which is oxidized by photoexcited IrIII* to nitranion D (closing the oxidative-quenching photocycle, with IrII reoxidized to IrIII). Protonation of D yields E, anodically oxidized/deprotonated to product 3a, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed (0% 3a), consistent with radical intermediates"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction suppressed (0% 3a)"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Malonate-DPE adduct 5 isolated in 66%, indicating involvement of malonate radical"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+]([O-])=O", "purpose": "redox_probe", "observation": "SET inhibitor suppressed the reaction"}, {"name": "CuCl2", "smiles": "[Cu](Cl)Cl", "purpose": "radical_trap", "observation": "Reaction suppressed"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "radical_trap", "observation": "Reaction suppressed"}, {"name": "Pre-generated IrIV / IrCl4 (stoichiometric oxidant, no current)", "smiles": null, "purpose": "intermediate_trap", "observation": "No 3a formed, ruling out a discrete IrIV oxidant pathway (path c)"}, {"name": "UVA irradiation without PC", "smiles": null, "purpose": "redox_probe", "observation": "No beneficial effect (35-38% vs 36% dark), excluding triplet energy transfer sensitization of 1b (path d)"}, {"name": "On/off light and current experiments", "smiles": null, "purpose": "other", "observation": "Reaction halts when either light or current is off, ruling out a radical chain"}, {"name": "Hydrogen detection", "smiles": "[H][H]", "purpose": "other", "observation": "H2 confirmed at cathode, consistent with proposed cathodic proton reduction"}, {"name": "Cyclic voltammetry of 1a, 2a, 3a, Ir(ppy)3", "smiles": null, "purpose": "redox_probe", "observation": "E_p/2 values established: 2a-base 0.83 V, 1a 1.92 V, 3a -0.72 V vs SCE; IrIII* reduction potential 0.31 V; supports anodic malonate oxidation and unfavorable SET from C to IrIII* being thermodynamically uphill only when product 3a (-1.85 V vs SCE for IrII/IrIII)."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "stoichiometric_intermediate", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors explicitly disfavor alternative paths: (path a) merged electrolysis + reductive quenching Ir cycle - excluded by Stern-Volmer (2a does not quench IrIII*) and failure of stoichiometric Ir(ppy)3 photooxidant without current; (path b) IrIV electron-shuttle - excluded by failure of electrogenerated IrIV and IrCl4 to drive the reaction without current; (path c) excited IrIV oxidative pathway and (path d) triplet sensitization of quinazolinone 1b - excluded by UVA experiments without PC; (path e) reductive-quenching SET from C to IrIII* - excluded as thermodynamically unfavorable. Favored mechanism is the oxidative-quenching photocatalytic cycle (paths f/g) that anchors and rapidly oxidizes the anodically generated radical intermediate C. Hydrogen evolution at cathode maintains electron balance."}
